US07968585B2
4-(tert-Butyl-diphenyl-silanyloxy)-1-cyanomethyl-cyclohexanecarboxylic acid ethyl ester
Treat a −78° C. solution of 4-(tert-butyl-diphenyl-silanyloxy)-cyclohexanecarboxylic acid ethyl ester (21.22 g, 51.7 mmol) in THF (200 mL) with a 2M solution of lithium diisopropylamide in heptane/THF/ethylbenzene (31 mL, 62.0 mmol) and stir at −78° C. for 15 minutes under N2. Warm the reaction to −20° C. and then re-cool to −78° C. Treat the reaction with bromoacetonitrile (9.30 g, 77.5 mmol) and stir at −78° C. for 1 hour. Warm the reaction to room temperature and stir 1 hour. Acidify the reaction with 1 N HCl, dilute with ethyl acetate, and wash with water. Dry the organic layer with Na2SO4 and remove the solvent in vacuo to afford crude product that is purified with a 0 to 20% ethyl acetate in hexanes gradient on silica gel to afford 10.96 g (47%) of the titled product. Rf=0.25 and 0.21 (5/1 hexanes/ethyl acetate). MS (m/z): 450 (M+).

reactant | 4-(tert-butyl-diphenyl-silanyloxy)-cyclohexanecarboxylic acid ethyl ester | 51.7 mmol, 21.22 g | C(C)OC(=O)C1CCC(CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C25H34O3Si
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | heptane THF ethylbenzene | 62.0 mmol, 31 mL | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
reactant | bromoacetonitrile | 77.5 mmol, 9.30 g | BrCC#N | C2H2BrN
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(tert-Butyl-diphenyl-silanyloxy)-1-cyanomethyl-cyclohexanecarboxylic acid ethyl ester | 10.96 g, 47% | C(C)OC(=O)C1(CCC(CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC#N | C27H35NO3Si
